US05332729
150 g of trimethylchlorosilane are added to a solution of 213 g of 1,1-diethoxyethyl(cyclohexylmethyl)phosphinic acid ethyl ester in 600 ml of a mixture of dichloromethane and ethanol (90:10% by volume) and the batch is stirred for 2 to 3 days at room temperature. The solvent is removed and the residue is distilled under reduced pressure to give P-(cyclohexylmethyl)phosphinic acid ethyl ester having a boiling point of 50° (2×10-4 mbar).

reactant | trimethylchlorosilane | 150 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | 1,1-diethoxyethyl(cyclohexylmethyl)phosphinic acid ethyl ester | 213 g | C(C)OP(=O)(CC1CCCCC1)C(C)(OCC)OCC | C15H31O4P
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | P-(cyclohexylmethyl)phosphinic acid ethyl ester | C(C)OP(=O)CC1CCCCC1 | C9H19O2P
